US04416895
A solution of phosphorus tribromide (3.52 g, 0.013 mol) in chloroform (6.25 ml) was added dropwise at -10° to a stirred solution of 2-naphthalene-ethanol (4.3 g, 0.025 mol) in chloroform (20 ml), containing dry pyridine (0.13 ml, 0.0016 mol). Following the addition, the mixture was stirred at -10° for 2 h, and was then stood at ambient temperature overnight. Next day, the reaction mixture was poured into water (62.5 ml) and the organic layer was separated. The aqueous solution was then extracted with chloroform (3×6.25 ml), and the organic layer and chloroform extracts were combined and washed with sodium hydroxide solution (62.5 ml., 2M), and with water (62.5 ml). The chloroform solution was dried (MgSO4), and the chloroform was then evaporated under reduced pressure to afford 2-(2-bromoethyl)naphthalene which was used without further purification.

reactant | phosphorus tribromide | 0.013 mol, 3.52 g | P(Br)(Br)Br | Br3P
reactant | 2-naphthalene-ethanol | 0.025 mol, 4.3 g | C1=C(C=CC2=CC=CC=C12)CCO | C12H12O
reactant | pyridine | 0.0016 mol, 0.13 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 62.5 ml | O | H2O
solvent | chloroform | 6.25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-bromoethyl)naphthalene | BrCCC1=CC2=CC=CC=C2C=C1 | C12H11Br
